US05484946
Preparation of Ethyl β(S)-[[(1,1-dimethylethoxy)carbonyl]amino]benzenepropanoate.
To a stirred solution of N-BOC-D-phenylglycine (5.02 g, 20 mmol), N-methylmorpholine (2.02 g, 20 mmol) in EtOAc (100 mL) at 0° C. was added isobutyl chloroformate (2.73 g, 20 mmol). After 15 minutes the reaction mixture was filtered to remove the amine salts then an ethereal solution of diazomethane (60 mL, 30 mmol) was added. The cooling bath was removed and the reaction mixture stirred at ambient temperature for 2 hours. The reaction mixture was purged with nitrogen for 15 minutes to remove the excess diazomethane. The reaction mixture was diluted with EtOAc, washed with 1N HCl , saturated NaHCO3, and dried (MgSO4). Evaporation of the solvent afforded the crude diazoketone which was dissolved in EtOH (100 mL) and then treated sequentially with AgO2CPh (1.6 g, 7 mmol) and triethylamine (6.06 g, 60 mmol). After 20 hours the reaction mixture was concentrated and chromatographed (silica gel, 15% EtOAc/hexanes) affording 4.90 g (85%) of product as a colorless oil. 1H-NMR (300 MHz, CDCl3) δ1.17 (t, J=7 Hz, 3H), 1.43 (s, 9H), 2.73-2.92 (m, 2H), 4.07 (q, J=7 Hz, 2H), 5.10 (m, 1H), 5.48 (m, 1H), 7.22-7.39 (m, 5H).

reactant | N-BOC-D-phenylglycine | 20 mmol, 5.02 g | CC(C)(C)OC(=O)N[C@H](C1=CC=CC=C1)C(=O)O | C13H17NO4
reactant | N-methylmorpholine | 20 mmol, 2.02 g | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 20 mmol, 2.73 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | diazomethane | 30 mmol, 60 mL | [N+](=[N-])=C | CH2N2
reactant | triethylamine | 60 mmol, 6.06 g | C(C)N(CC)CC | C6H15N
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 100 mL | CCO | C2H6O
product | Ethyl β(S)-[[(1,1-dimethylethoxy)carbonyl]amino]benzenepropanoate | 4.90 g, 85% | CC(C)(OC(=O)N[C@@H](CC(=O)OCC)C1=CC=CC=C1)C | C16H23NO4
